* C:\Users\Si Teng Wu\OneDrive - University of Cape Town\2024\EEE4022S\IOT_Retro_Display_EEE4022S\LTspice\MOSFET Demux.asc
R4 SEL 0 4.7k
V4 SEL 0 3.3
V1 TX1 0 PULSE(0 3.3 0 0 0 50u 100u)
M2 N001 SEL TX1 TX1 AO3423
M1 N001 SEL RX1 RX1 AO3423
R1 N001 0 1k
R2 SEL 0 4.7k
V2 RX2 0 PULSE(0 3.3 0 0 0 50u 100u)
M3 N002 SEL TX2 TX2 AO3423
M4 N002 SEL RX2 RX2 AO3423
R3 N002 0 1k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Si Teng Wu\OneDrive - University of Cape Town\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m
.backanno
.end
